US09403801B2
Step 4) tert-butyl 5-aminohexahydro-1H-isoindole-2(3H)-carboxylate
To a solution of tert-butyl 5-oxohexahydro-1H-isoindole-2(3H)-carboxylate (11.97 g, 50 mmol) in EtOH (100 mL) were added a solution of NH3 in MeOH (7 M, 100 mL, 700 mmol) and Ti(OiPr)4 (28.42 g, 100 mmol). After addition, the reaction mixture was stirred at rt overnight and NaBH4 (3.78 g, 100 mmol) was added portionwise, then the resulting mixture was stirred at rt for another 5 h. The reaction was quenched with water (100 mL), stirred at rt for 1 h and filtered. The filter cake was washed with DCM (100 mL×3) and the filtrate was concentrated in vacuo. The residue was dissolved in a mixture of EtOAc (100 mL) and water (100 mL), and extracted with EtOAc (250 mL×3). The combined organic phases were washed with brine (250 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give the title compound as brown oil (12.02 g, 100%).

reactant | tert-butyl 5-oxohexahydro-1H-isoindole-2(3H)-carboxylate | 50 mmol, 11.97 g | O=C1CC2CN(CC2CC1)C(=O)OC(C)(C)C | C13H21NO3
reactant | NH3 | N | H3N
reactant | MeOH | 700 mmol, 7 M, 100 mL | CO | CH4O
reactant | NaBH4 | 100 mmol, 3.78 g | [BH4-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Ti(OiPr)4 | 100 mmol, 28.42 g | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | tert-butyl 5-aminohexahydro-1H-isoindole-2(3H)-carboxylate | 12.02 g, 100% | NC1CC2CN(CC2CC1)C(=O)OC(C)(C)C | C13H24N2O2
